US04000153
In the manner given in Example 1, 2,6-dichloro-4-(o-fluorophenyl)quinoline is reacted with hydrazine hydrate at reflux to give 6-chloro-4-(o-fluorophenyl)-2-hydrazinoquinoline.

reactant | 2,6-dichloro-4-(o-fluorophenyl)quinoline | ClC1=NC2=CC=C(C=C2C(=C1)C1=C(C=CC=C1)F)Cl | C15H8Cl2FN
reactant | hydrazine hydrate | O.NN
product | 6-chloro-4-(o-fluorophenyl)-2-hydrazinoquinoline | ClC=1C=C2C(=CC(=NC2=CC1)NN)C1=C(C=CC=C1)F | C15H11ClFN3
